US05780498
To a solution of 4-(3-thienyl)toluene (3.56 g, 20.5 mmol) in carbon tetrachloride (100 ml) is added N-bromosuccinimide (3.64 g, 20.5 mol) and benzoyl peroxide (80 mg, 3.3 mmol). The reaction mixture is heated at reflux for 24 hrs. and concentrated in vacuo. The reaction mixture is recrystallized from ethanol to afford 4-(3-thienyl)benzyl bromide.

reactant | 4-(3-thienyl)toluene | 20.5 mmol, 3.56 g | S1C=C(C=C1)C1=CC=C(C=C1)C | C11H10S
reactant | N-bromosuccinimide | 20.5 mol, 3.64 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.3 mmol, 80 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(3-thienyl)benzyl bromide | S1C=C(C=C1)C1=CC=C(CBr)C=C1 | C11H9BrS
